data/specific_train_final.csv
"CC(C)(C)CC[O:21][O:20][O].[N+](=O)[O-]>>CC(C)(C)CC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:13][CH:8]([CH:7]([CH3:14])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3])[O:9][N+:10](=[O:12])[O-:11]>>[CH3:13][CH:8]([CH:7]([CH3:14])[O:6][O:5][O:4])[O:9][N+:10](=[O:12])[O-:11].[N+:2](=[O:1])[O-:3] 4,2-2; 4,2-4",Room Temperature,Initiation,homolyze
"C1=CC=C(C=C1)CC[O:21][O:20][O].[N+](=O)[O-]>>C1=CC=C(C=C1)CC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC[C:10](C)C.[O:20][O]>>CCC[C:10](C)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:7][O:8][O:9][O:10].[CH3:1][O:2][CH:3]([CH2:5][OH:6])[O:4]>>[H:7][O:8].[CH3:1][O:2][CH:3]([CH2:5][OH:6])[O:4].[O:9][O:10] 8,9-8; 8,9-9",Room Temperature,Initiation,homolyze
"C(C(O)Cl)O[O:20].[N+](=O)([O-])[O:10]>>C(C(O)Cl)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](C)OCC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCO[CH:21]C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(OCC(C)O)OO[O:20][N+:21](=O)[O-]>>CCCC(OCC(C)O)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C(C(=CC=C1)CO[O:20])C.[N+](=O)([O-])[O:10]>>CC1=C(C(=CC=C1)CO[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C/C/1=C/CCC(C2CC(C2CC1)(C)C)(CO)O[O:20].[N:10]=O>>C/C/1=C/CCC(C2CC(C2CC1)(C)C)(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C12C=CC(C(C1O)OO2)[O:20].[N+:10](=O)[O-]>>CC(C)C12C=CC(C(C1O)OO2)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC(=C([C:21](=[CH:20]1)C)O)C.[OH:10]>>CC1=CC(=C([C:21]([CH:20]1[OH:10])C)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCC(C)[O:20][O:21]N=O>>CCCCC(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC2C(O2)[CH:21]([CH:20]1[O:10])O.[O][O]>>C(=CC1C(O1)[CH:21]O)[CH:20]=[O:10].[O][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
[CH3:7][C:6](=[O:8])[CH:5]([C:2]([CH3:1])([CH3:3])[OH:4])[O:9].[N:11](=[O:12])[O:10]>>[CH3:7][C:6](=[O:8])[CH:5]([C:2]([CH3:1])([CH3:3])[OH:4])[O:9].[N+:11](=[O:12])[O-:10] 11-10,Room Temperature,Propagation,ha resonance
"C(C([O:20][O:21]N=O)(Cl)Cl)(O)(Cl)Cl>>C(C([O:20])(Cl)Cl)(O)(Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(C)[O:20][O:21][O]>>CCC(C)(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:5][C:2]([CH2:3][OH:4])([C:6]1([CH2:9][O:8]1)[CH3:7])[OH:1].[H:11][O:10]>>[H:11][O:10][H:5].[CH3:7][C:6]1([CH2:9][O:8]1)[C:2]([CH2:3][OH:4])[OH:1] 10-5,10;2,5-5,10;2,5-2",Room Temperature,Propagation,abstraction
"CC(CO)(C=O)O[O:20].[N+](=O)([O-])[O:10]>>CC(CO)(C=O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH:8]([C:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:12])([Cl:7])[Cl:11])([OH:10])[Cl:9]>>[CH:8]([C:6]([O:5][O:4][O:3])([Cl:7])[Cl:11])([OH:10])[Cl:9].[N+:2](=[O:1])[O-:12] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[H:10][O:11][O:12].[CH3:1][C:2](=[O:9])[CH:3]([CH:6]([OH:7])[OH:8])[O:4][O:5]>>[H:10][O:5][O:4][CH:3]([CH:6]([OH:7])[OH:8])[C:2](=[O:9])[CH3:1].[O:11][O:12] 10,11-5,10;5-5,10;10,11-11",Room Temperature,Propagation,abstraction
"CC(CCOC(=O)C)O[O:20].[N:10]=O>>CC(CCOC(=O)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(C=CCO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC=CCO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](CC)CCCCC.[OH:10]>>[H:20][OH:10].CCCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(CO[O:20])O.[N+](=O)([O-])[O:10]>>CC(C)(CO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC12C=CC(C(C1O)OO2)(C)O[O:10]>>[H:20][O:10]OC1(C=CC2(C(C1OO2)O)C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C(C)(C)[O:20][O:21]N=O)O[N+](=O)[O-]>>CC(C)(C(C)(C)O[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:1][C:2]1=[CH:3][CH2:4][CH2:5][C:6]([CH:7]2[CH2:8][C:9]([CH:10]2[CH2:11][CH2:12]1)([CH3:13])[CH3:14])([CH2:15][OH:16])[O:17].[N:18](=[O:19])[O:20]>>[CH3:1][C:2]1=[CH:3][CH2:4][CH2:5][C:6]([CH:7]2[CH2:8][C:9]([CH:10]2[CH2:11][CH2:12]1)([CH3:13])[CH3:14])([CH2:15][OH:16])[O:17].[N+:18](=[O:19])[O-:20] 18-20,Room Temperature,Propagation,ha resonance
"C[C:10]1C=CC(=C(C1O[N+](=O)[O-])C)O.[O:20][O]>>CC1=C(C=C[C:10](C1O[N+](=O)[O-])(C)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
